US05591744
To 2,4,5-trifluoro-3-methyl-6-methylthiomethylaniline (10.67 g) are added ethanol (300 ml) and Raney nickel (100 g, wet) and the mixture is stirred at room temperature for 30 minutes. After Raney nickel is filtered off, the filtrate is concentrated, diluted with water, extracted with dichloromethane, and the extract is washed with water and dried. The solvent is distilled off under reduced pressure and the residue is purified by silica-gel column-chromatography (dichloromethane: n-hexane =1:1) to give 2,4,5-trifluoro-3,6-dimethylaniline (5.89 g), as yellow crystals.

reactant | 2,4,5-trifluoro-3-methyl-6-methylthiomethylaniline | 10.67 g | FC1=C(N)C(=C(C(=C1C)F)F)CSC | C9H10F3NS
catalyst | Raney nickel | 100 g | [Ni] | Ni
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | 2,4,5-trifluoro-3,6-dimethylaniline | 5.89 g | FC1=C(N)C(=C(C(=C1C)F)F)C | C8H8F3N
